US05872137
A solution of 50 g of 4-bromo-6-chloro-2-methylphenol and 42.5 g of benzyl bromide dissolved in 200 ml of N,N-dimethylformamide was stirred at room temperature, to which 37.4 g of potassium carbonate was added, and the mixture was stirred for 12 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was added to 400 ml of diethyl ether, washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 63 g of 4-bromo-6-chloro-2-methyl-1-benzyloxybenzene (90% yield).

reactant | 4-bromo-6-chloro-2-methylphenol | 50 g | BrC1=CC(=C(C(=C1)Cl)O)C | C7H6BrClO
reactant | benzyl bromide | 42.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 37.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-bromo-6-chloro-2-methyl-1-benzyloxybenzene | 63 g, 90% yield | BrC1=CC(=C(C(=C1)Cl)OCC1=CC=CC=C1)C | C14H12BrClO
